US04782080
To a stirred mixture of benzthiophene-2-one (1.50 g, 0.01 m), phenylcarbamate (1.4 g, 0.01 m), and hexamethylphosphorictriamide (2.2 ml) at 5° C. is added sodium hydride (0.24 g, from 0.4 g 60% mineral oil dispersion), and the resultant mixture stirred at ambient temperatures for 5 hours. The volatiles are removed under high vacuum, and the residue triturated well with hexane and then with water to yield 2-hydroxybenzo(b)thiophene-3-carboxamide.

reactant | benzthiophene-2-one | 1.50 g | S1C(CC2=C1C=CC=C2)=O | C8H6OS
reactant | phenylcarbamate | 1.4 g | C1(=CC=CC=C1)NC([O-])=O
reactant | sodium hydride | 0.24 g | [H-].[Na+]
solvent | hexamethylphosphorictriamide | 2.2 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 2-hydroxybenzo(b)thiophene-3-carboxamide | OC1=C(C2=C(S1)C=CC=C2)C(=O)N | C9H7NO2S
